* Copyright © F6FLT Francois Guillet 2018.  All rights reserved.
*
.subckt bifilarCoil 1 2 3 4 5
L1 1 3 {L} Rser={R}
L2 2 4 {L} Rser={R}
C1 1 2 {0.5*C}
C2 3 4 {0.5*C}
Cp1 1 5 {0.5*Cp}
Cp2 2 5 {0.5*Cp}
Cp3 3 5 {0.5*Cp}
Cp4 4 5 {0.5*Cp}
K1 L1 L2 {K}
.ends bifilarCoil
